US07037905B2
2-(4-Methylthiophen-2-yl)-[1,3,6,2]dioxazaborocane
The title compound (88%, oil) was prepared from 4-methylthiophen-2-boronic acid and diethanolamin.

reactant | 4-methylthiophen-2-boronic acid | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-(4-Methylthiophen-2-yl)-[1,3,6,2]dioxazaborocane | 88% | CC=1C=C(SC1)B1OCCNCCO1 | C9H14BNO2S
